US04599334
0.3 g of p-toluenesulphonic acid is added to an emulsion of 284.8 g of crude diethyl 2,3,4,5-tetrafluorobenzoylmalonate in 300 ml of water. This mixture is heated to boiling, stirring vigorously for 5 hours, the cooled emulsion is extracted several times with methylene chloride, the combined methylene chloride solutions are washed once with saturated NaCl solution, dried with Na2SO4 and the solvent is removed by distillation in vacuo. Fractionation of the residue under high vacuum provides 160.2 g of ethyl 2,3,4,5-tetrafluorobenzoylacetate of boiling point 100°-110° C./0.09-0.1 mbar. Melting point 47°-49° C.

reactant | p-toluenesulphonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | diethyl 2,3,4,5-tetrafluorobenzoylmalonate | 284.8 g | FC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=C(C(=C1F)F)F | C14H12F4O5
solvent | water | 300 ml | O | H2O
product | ethyl 2,3,4,5-tetrafluorobenzoylacetate | 160.2 g | FC1=C(C(=O)CC(=O)OCC)C=C(C(=C1F)F)F | C11H8F4O3
